US07572817B2
A solution of 4-methoxy-α-toluenethiol (0.58 mL, 4.17 mmol) in dry, degassed DMF (2 mL) was treated at room temperature with a catalytic amount of sodium hydride (60% in mineral oil), followed by a solution of tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)pent-2-enoate (1.073 g, 2.08 mmol) in dry, degassed DMF (5 mL). After 20 h at room temperature the reaction mixture was diluted with EtOAc and washed with water three times. The organic layer was dried Na2SO4), concentrated, and subjected to flash chromatography (heptan/EtOAc, 3:1 and toluene/EtOAc 12:1) to give tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]pentanoate (1.251 g, 90%)

reactant | 4-methoxy-α-toluenethiol | 4.17 mmol, 0.58 mL | COC1=CC=C(C=C1)CS | C8H10OS
reactant | tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)pent-2-enoate | 2.08 mmol, 1.073 g | C1(=CC(=CC=C1)CCC=C(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H38N2O4
product | tert-butyl 5-(1,1′-biphenyl-3-yl)-2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]pentanoate | 1.251 g, 90% | C1(=CC(=CC=C1)CCC(C(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)SCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C40H48N2O5S
